US09062032B2
To a mixture of 200 mg of methyl 4-[2-(4-{[(2-{[3-({[2-(methylamino)ethyl](pentan-3-yl)amino}methyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate, 48 mg of N-ethyl-N-isopropylpropan-2-amine and 4 mL of dioxane was added 44 mg of 3,3-dimethyldihydrofuran-2,5-dione, followed by stirring overnight at 65° C. The reaction mixture was concentrated under reduced pressure, ethyl acetate and water were added to the residue, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography, thereby obtaining 200 mg of 4-[(2-{[3-({3-[(4-{2-[4-(methoxycarbonyl)phenyl]ethyl}phenyl)carbamoyl]-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)benzyl](pentan-3-yl)amino}ethyl)(methyl)amino]-2,2-dimethyl-4-oxobutanoic acid.

reactant | methyl 4-[2-(4-{[(2-{[3-({[2-(methylamino)ethyl](pentan-3-yl)amino}methyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 200 mg | CNCCN(C(CC)CC)CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C41H50N4O4S
reactant | N-ethyl-N-isopropylpropan-2-amine | 48 mg | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3,3-dimethyldihydrofuran-2,5-dione | 44 mg | CC1(C(OC(C1)=O)=O)C | C6H8O3
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 4-[(2-{[3-({3-[(4-{2-[4-(methoxycarbonyl)phenyl]ethyl}phenyl)carbamoyl]-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)benzyl](pentan-3-yl)amino}ethyl)(methyl)amino]-2,2-dimethyl-4-oxobutanoic acid | 200 mg | COC(=O)C1=CC=C(C=C1)CCC1=CC=C(C=C1)NC(=O)C1=C(SC2=C1CCCC2)NC(=O)C=2C=C(CN(CCN(C(CC(C(=O)O)(C)C)=O)C)C(CC)CC)C=CC2 | C47H58N4O7S
